US08383932B2
Synthesis of 2-(3-bromo-5-(pyridin-3-yl)phenyl)-1-phenyl-1H-benzo[d]imidazole
9.4 g (22.0 mmol) of 2-(3,5-dibromophenyl)-1-phenyl-1H-benzo[d]imidazole according to Synthesis Example 3, 2.7 g (22.0 mmol) of pyridine-3-boronic acid, 0.76 g (3 mol %) of tetrakis(triphenylphosphine)palladium (0), and 6.1 g (44.0 mmol) of potassium carbonate were dissolved in 300 ml of tetrahydrofuran/H2O mixed in a volume ratio of 2/1. The solution was reacted at 80° C. for 12 hours. The acquired reactant was extracted with ethyl acetate and treated under reduced pressure to remove the solvent therein. The reactant was separated through a column and dried, obtaining 5.15 g (Y=54%) of a yellow solid.

reactant | 2-(3,5-dibromophenyl)-1-phenyl-1H-benzo[d]imidazole | 22.0 mmol, 9.4 g | BrC=1C=C(C=C(C1)Br)C1=NC2=C(N1C1=CC=CC=C1)C=CC=C2 | C19H12Br2N2
reactant | pyridine-3-boronic acid | 22.0 mmol, 2.7 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | potassium carbonate | 44.0 mmol, 6.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran H2O | 300 ml | O1CCCC1.O
catalyst | tetrakis(triphenylphosphine)palladium | 0.76 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(3-bromo-5-(pyridin-3-yl)phenyl)-1-phenyl-1H-benzo[d]imidazole | BrC=1C=C(C=C(C1)C=1C=NC=CC1)C1=NC2=C(N1C1=CC=CC=C1)C=CC=C2 | C24H16BrN3
